US06399824B1
N-[4-(2-Pyrrolidin-1-ylethylsulfamoyl)phenyl]acetamide
Starting from 4-acetylaminobenzenesulfonyl chloride and 2-pyrrolidin-1-ylethylamine, the title compound is prepared analogously to the method described in Example 10, intermediate 2. The crude product thus obtained can be used for further reaction without further purification. (MS-ES+: 312.1; LCMS Rt=1.957 min)

reactant | 4-acetylaminobenzenesulfonyl chloride | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | 2-pyrrolidin-1-ylethylamine | N1(CCCC1)CCN | C6H14N2
product | N-[4-(2-Pyrrolidin-1-ylethylsulfamoyl)phenyl]acetamide | N1(CCCC1)CCNS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C14H21N3O3S
